US07018988B2
(2S)-N-(1,3-benzodioxol-5-ylmethyl)-4-oxo-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-oxoproline, and 1,3-benzodioxol-5-ylmethylamine the title compound was obtai-ned in 71% purity by LC/MS. MS(ESI+): m/z=263.0.

reactant | 1-(tert-butoxycarbonyl)-4-oxoproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=O | C10H15NO5
reactant | 1,3-benzodioxol-5-ylmethylamine | O1COC2=C1C=CC(=C2)CN | C8H9NO2
product | (2S)-N-(1,3-benzodioxol-5-ylmethyl)-4-oxo-2-pyrrolidinecarboxamide | O1COC2=C1C=CC(=C2)CNC(=O)[C@H]2NCC(C2)=O | C13H14N2O4
